US07148229B2
A solution of (4-{[6-amino-1-cyclopropylmethyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-carbamic acid tert-butyl ester (2.20 g, 4.10 mmol) in a solution of a 4.0N aqueous hydrochloric acid solution in dioxane (37.0 mL) was stirred at 25° C. for 1 h. A suspension formed during this time. The reaction mixture was cooled to 0° C. The resulting solid was collected by filtration, washed with dioxane and cold diethyl ether, and dried in vacuo to afford N-[6-amino-1-cyclopropylmethyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-(4-amino-phenyl)-acetamide, hydrochloride salt (1.73 g, 89%); LRMS for C23H23FN5O3 (M+H)+ at m/z=438.

reactant | (4-{[6-amino-1-cyclopropylmethyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-carbamic acid tert-butyl ester | 4.10 mmol, 2.20 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC(NC=1C(N(C(N(C1N)CC1CC1)=O)CC1=C(C=CC=C1)F)=O)=O)=O | C28H32FN5O5
reactant | hydrochloric acid | 4.0N | Cl | ClH
solvent | dioxane | 37.0 mL | O1CCOCC1 | C4H8O2
product | N-[6-amino-1-cyclopropylmethyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-(4-amino-phenyl)-acetamide, hydrochloride salt | 1.73 g, 89% | Cl.NC1=C(C(N(C(N1CC1CC1)=O)CC1=C(C=CC=C1)F)=O)NC(CC1=CC=C(C=C1)N)=O | InChI=1S/C23H24FN5O3.ClH/c24-18-4-2-1-3-16(18)13-29-22(31)20(21(26)28(23(29)32)12-15-5-6-15)27-19(30)11-14-7-9-17(25)10-8-14;/h1-4,7-10,15H,5-6,11-13,25-26H2,(H,27,30);1H
